US04992431
A mixture of 2.6 g of 3-methylthiomethyl-7-amino-ceph-3-eme-4-carboxylic acid, 26 ml of methylene chloride and 3 ml of triethylamine was stirred at 20° C. under an inert atmosphere and after cooling the mixture to -20° C., an acetone suspension of the mixed anhydride of Example 3 prepared from 6 g of the triethylamine salt of the syn isomer of 2-(2-tritylamino-4-thiazolyl)-2-methoxyimino-acetic acid was added thereto. The mixture was stirred for 2 hours at 0° C. and was then acidified with 1 ml of acetic acid. The mixture was evaporated to dryness under reduced pressure and the residue was taken up in 50 ml of methylene chloride. The organic solution was washed with water, dried and evaporated to dryness under reduced pressure. The residue was taken up in 50 ml of ether and the mixture was vacuum filtered to obtain 8.06 g of syn isomer of 3-methylthiomethyl-7-[2-(2-tritylamino- 4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylic acid.

reactant | 3-methylthiomethyl-7-amino-ceph-3-eme-4-carboxylic acid | 2.6 g | CSCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C9H12N2O3S2
reactant | methylene chloride | 26 ml | C(Cl)Cl | CH2Cl2
reactant | 2-(2-tritylamino-4-thiazolyl)-2-methoxyimino-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOC | C25H21N3O3S
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | triethylamine | 6 g | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
product | 3-methylthiomethyl-7-[2-(2-tritylamino- 4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylic acid | CSCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC)C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C34H31N5O5S3
